US09085576B2
Step 4: 5-chloro-3-(fluoromethyl)picolinaldehyde
To a solution of 5-chloro-3-(fluoromethyl)-2-vinylpyridine (65 mg, 0.38 mmol) in THF (2.3 mL) and water (3.5 mL) was added a solution of osmium tetroxide (2.5 wt % in 2-methyl-2-propanol, 80 μl, 0.038 mmol, Aldrich). After 5 min, sodium meta-periodate (122 mg, 0.568 mmol, Aldrich) was added in one portion and the reaction mixture was allowed to stir for 1 h. The reaction mixture was partitioned between brine and EtOAc. The organic phase was separated and dried over MgSO4. The filtrate was absorbed onto a plug of silica gel and purified by chromatography, eluting with a gradient of 5% to 45% EtOAc in hexane, to provide the title compound as grey solid (55 mg).

reactant | 5-chloro-3-(fluoromethyl)-2-vinylpyridine | 0.38 mmol, 65 mg | ClC=1C=C(C(=NC1)C=C)CF | C8H7ClFN
reactant | sodium meta-periodate | 0.568 mmol, 122 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 2.3 mL | C1CCOC1 | C4H8O
solvent | water | 3.5 mL | O | H2O
catalyst | osmium tetroxide | 0.038 mmol, 80 μl | [Os](=O)(=O)(=O)=O
product | 5-chloro-3-(fluoromethyl)picolinaldehyde | 55 mg | ClC=1C=C(C(=NC1)C=O)CF | C7H5ClFNO
